US07754757B2
4-Benzyloxycarbonylaminobicyclo[2.2.2]octane-1-carboxylic acid (56.0 g) was dissolved in N,N-dimethylformamide (1000 mL). To this solution, sodium bicarbonate (46.6 g) and then ethyl iodide (22.2 mL) were added and the mixture was stirred at 50 to 60° C. for 5 hours. Subsequently, additional sodium bicarbonate (46.6 g) and ethyl iodide (22.2 mL) were added and the mixture was stirred for additional 3 hours. The insoluble materials in the mixture were filtered and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (700 mL) and the solution was washed with water, dried over anhydrous sodium sulfate, and dried under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluant: hexane:ethyl acetate=2:1→ethyl acetate) to give ethyl 4-benzyloxycarbonylaminobicyclo[2.2.2]octane-1-carboxylate (56.8 g).

reactant | 4-Benzyloxycarbonylaminobicyclo[2.2.2]octane-1-carboxylic acid | 56.0 g | C(C1=CC=CC=C1)OC(=O)NC12CCC(CC1)(CC2)C(=O)O | C17H21NO4
reactant | sodium bicarbonate | 46.6 g | C([O-])(O)=O.[Na+]
reactant | ethyl iodide | 22.2 mL | C(C)I | C2H5I
reactant | sodium bicarbonate | 46.6 g | C([O-])(O)=O.[Na+]
reactant | ethyl iodide | 22.2 mL | C(C)I | C2H5I
solvent | N,N-dimethylformamide | 1000 mL | CN(C=O)C | C3H7NO
product | ethyl 4-benzyloxycarbonylaminobicyclo[2.2.2]octane-1-carboxylate | 56.8 g | C(C1=CC=CC=C1)OC(=O)NC12CCC(CC1)(CC2)C(=O)OCC | C19H25NO4
